US05780642
A solution of 5-chlorovaleryl chloride (3.76 g) in dichloromethane (8 ml) was added dropwise with stirring to a mixture of 1-methyl-(1-phenoxymethyl)ethylamine (4.0 g) and triethylamine (2.9 g) in dichloromethane (30 ml) whilst keeping the temperature below 0° C. After the addition the reaction mixture was allowed to warm to ambient temperature and then stirred at that temperature for 2 hours. The mixture was worked up in a similar manner to Example 55 to give 5-chloro-N-(1,1-dimethyl-2-phenoxyethyl)valeramide as an oil.

reactant | 5-chlorovaleryl chloride | 3.76 g | ClCCCCC(=O)Cl | C5H8Cl2O
reactant | 1-methyl-(1-phenoxymethyl)ethylamine | 4.0 g | CC(C)NCOC1=CC=CC=C1 | C10H15NO
reactant | triethylamine | 2.9 g | C(C)N(CC)CC | C6H15N
reactant | dichloromethane | 8 ml | ClCCl | CH2Cl2
reactant | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 5-chloro-N-(1,1-dimethyl-2-phenoxyethyl)valeramide | ClCCCCC(=O)NC(COC1=CC=CC=C1)(C)C | C15H22ClNO2
